US07943610B2
p-Toluenesulfonic acid (2 mg, 0.16 mmol) and acetonylacetone (2.14 g, 18.7 mmol) were added sequentially to a solution of 2-aminophenylacetonitrile (2.06 g, 15.6 mmol) in toluene (30 mL). The reaction mixture was heated in an oil bath at 155° C. for 1 hour and then allowed to stand at ambient temperature overnight. Acetonylacetone (0.5 mL) and a small amount of p-toluenesulfonic acid were added and the reaction mixture was heated at reflux for 4 hours. The toluene layer was washed sequentially with saturated sodium bicarbonate and water (×2), dried over magnesium sulfate, filtered, and then concentrated under reduced pressure to a dark oil. The oil was purified by prep HPLC (AnaLogix, eluted with a gradient of 10-30% ethyl acetate in hexanes) to provide 3.35 g of 2-(2,5-dimethylpyrrol-1-yl)phenylacetonitrile as a pale brown oil.

reactant | acetonylacetone | 18.7 mmol, 2.14 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | 2-aminophenylacetonitrile | 15.6 mmol, 2.06 g | NC1=C(C=CC=C1)CC#N | C8H8N2
reactant | Acetonylacetone | 0.5 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-Toluenesulfonic acid | 0.16 mmol, 2 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(2,5-dimethylpyrrol-1-yl)phenylacetonitrile | 3.35 g | CC=1N(C(=CC1)C)C1=C(C=CC=C1)CC#N | C14H14N2
